US07417040B2
To 4-Chloro-2-iodo-1-methoxy-benzene (5.00 g, 18.6 mmol) in an ice bath under argon was added dropwise neat BBr3 (2.20 mL, 23.2 mmol). This mixture was stirred at 0° C. for 3.5 hours and then quenched with MeOH (20 mL). This mixture was concentrated in vacuo to give 4.2 g of 4-Chloro-2-iodo-phenol in 88% yield. HPLC Rt=3.17 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.2% phosphoric acid, 4 mL/min, monitoring at 220 nm).

reactant | 4-Chloro-2-iodo-1-methoxy-benzene | 18.6 mmol, 5.00 g | ClC1=CC(=C(C=C1)OC)I | C7H6ClIO
reactant | BBr3 | 23.2 mmol, 2.20 mL | B(Br)(Br)Br | BBr3
product | 4-Chloro-2-iodo-phenol | 4.2 g, 88% yield | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
